US08022223B2
Ethyl 3-(2-(3-benzoylthioureido)-5-bromopyridin-3-yloxy)-4-chlorobenzoate (8.05 g, 15.1 mmol) and K2CO3 (10.4 g, 75.3 mmol) were placed in ethanol (150 mL) and heated to reflux for 2 days and then cooled. The reaction mixture was filtered and the filtrate was concentrated, triturated with water, and dried. The remaining solid was dissolved in CH2Cl2 and purified by silica gel chromatography to give ethyl 3-(5-bromo-2-thioureidopyridin-3-yloxy)-4-chlorobenzoate (1.70 g, 26.2% yield).

reactant | Ethyl 3-(2-(3-benzoylthioureido)-5-bromopyridin-3-yloxy)-4-chlorobenzoate | 15.1 mmol, 8.05 g | C(C1=CC=CC=C1)(=O)NC(NC1=NC=C(C=C1OC=1C=C(C(=O)OCC)C=CC1Cl)Br)=S | C22H17BrClN3O4S
reactant | K2CO3 | 75.3 mmol, 10.4 g | C(=O)([O-])[O-].[K+].[K+]
solvent | ethanol | 150 mL | C(C)O | C2H6O
product | ethyl 3-(5-bromo-2-thioureidopyridin-3-yloxy)-4-chlorobenzoate | 1.70 g, 26.2% yield | BrC=1C=C(C(=NC1)NC(=S)N)OC=1C=C(C(=O)OCC)C=CC1Cl | C15H13BrClN3O3S
